data/rdb19/train.csv
rxn,smiles,ea
4102,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])([H:12])[H:13])([H:9])([H:10])[H:11].[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43],81.57204390503466
5370,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:12][C:19]([C:18]([C:17]([H:26])([H:27])[H:28])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:20])[H:21],25.349068882118445
5307,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:26]([C:25]([O:24][C:22]([C:21]([H:27])([H:28])[H:29])=[O:23])[H:30])([H:31])[H:32])([H:14])[H:15])([H:11])([H:12])[H:13],18.24599302379648
2836,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:21]([C:20]([H:25])[H:26])([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27],38.5053489637794
1226,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:19]1([H:27])[C:18]([H:26])[C:17]([H:25])=[C:16]([C:15](=[C:14]([H:22])[H:23])[H:24])[C:21]([H:29])=[C:20]1[H:28])([H:11])[H:12])([H:8])([H:9])[H:10],19.80068195599597
621,[C:18]([C:19]([H:20])[H:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:19]([C:18]([H:22])([H:23])[H:24])([H:20])[H:21],23.078666390152648
4833,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:17]1([C:16](=[C:15]([H:23])[H:24])[H:25])[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]([H:29])=[C:22]1[H:30])[H:11])([H:8])([H:9])[H:10],24.22275130089838
3238,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:6]([H:18])([H:19])[H:20])[C:23]([C:22]([C:21]([H:30])([H:31])[H:32])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:24])[H:25])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])[H:17],85.17826707218774
481,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:15])[H:16]>>[C:1]([O:2][O:3][C:8]([C:7]([H:15])[H:16])([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:4])([H:5])[H:6],24.469232784875203
941,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.26943346124608
4064,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:22]([C:21]([C:20]([H:26])([H:27])[H:28])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:12])[H:13])([H:9])([H:10])[H:11],15.160513150971385
